US04692526
Ethyl 5-{3-{3-[4-(4-chlorobenzyl)-1-piperazinyl]propoxy}phenoxy}-1-(4-methoxybenzyl)-1,2,3-triazole-4-carboxylate
A solution of 1-[4-(4-chlorobenzyl)piperazin-1-yl]-3-(3-hydroxyphenoxy)propane (7.00 g, 0.019 mole), in dry dimethyl formamide, (200 ml) was treated portionwise with 60% sodium hydride in oil, (0.776 g, 0.019 mole), under a slow stream of nitrogen. The mixture was stirred at room temperature for 0.5 h, then Ethyl 5-chloro-1-(4-methoxybenzyl)-1,2,3-triazole 4-carboxylate (5.74 g, 0.019 mole) was added. The reaction was stirred at 100° C. for 24 hours, then cooled and the solvent removed in vacuo. The brown residue was partitioned between ethyl acetate and water and the organic phase separated, washed with water (twice), and dried, (MgSO4). Evaporation in vacuo gave the crude product as a pale brown oil which was purified by column chromatography to yield 8.52 g (72%) of the title compound as a pale yellow oil. νmax (film) 1510, 1560, 1590, 1615, 1730, 2810, 2940 cm-1 δ(CDCl3 ) 1.11 (3H, t, J 7 Hz, ester CH3), 1.91 (2H, m, CH2), 2.51 (10H, piperazinyl+CH2), 3.46 (2H, s, --NCH2), 3.73 (3H, s, OCH3), 3.87 (2H, t, J 6 Hz, OCH2), 4.18 (2H, q, J 7 Hz, ester CH2), 5.33 (2H, s, --NCH2), 6.33 (2H, m, aromatics), 6.80 (1H, m, aromatics), 7.00 (4H, ABq, Δν=39 Hz, J 9 Hz, --C6H4OCH3), 7.16 (1H, m, aromatics), 7.28 (4H, s, C6H4 --Cl). Mass Spec. Observed mass 619.2572, theoretical mass 619.2561 (C33H38ClN5O5).

reactant | 1-[4-(4-chlorobenzyl)piperazin-1-yl]-3-(3-hydroxyphenoxy)propane | 0.019 mole, 7.00 g | ClC1=CC=C(CN2CCN(CC2)CCCOC2=CC(=CC=C2)O)C=C1 | C20H25ClN2O2
reactant | sodium hydride | [H-].[Na+]
reactant | Ethyl 5-chloro-1-(4-methoxybenzyl)-1,2,3-triazole 4-carboxylate | 0.019 mole, 5.74 g | ClC1=C(N=NN1CC1=CC=C(C=C1)OC)C(=O)OCC | C13H14ClN3O3
solvent | dimethyl formamide | 200 ml | CN(C=O)C | C3H7NO
product | Ethyl 5-{3-{3-[4-(4-chlorobenzyl)-1-piperazinyl]propoxy}phenoxy}-1-(4-methoxybenzyl)-1,2,3-triazole-4-carboxylate | 8.52 g, 72% | ClC1=CC=C(CN2CCN(CC2)CCCOC=2C=C(OC3=C(N=NN3CC3=CC=C(C=C3)OC)C(=O)OCC)C=CC2)C=C1 | C33H38ClN5O5
